*TB LELO_NMC_3STAGE_FINAL - Transient (SR + swing)
.include ../../../work/xsch/LELO_NMC_3STAGE_FINAL.spice
.option TNOM=27 GMIN=1e-12 reltol=1e-3 srcsteps=20 itl1=500 itl6=300 abstol=1e-12

.param vcm = 'vdda/2'
.param ibias_val = 10u
.param vos       = {VOS}

VSS    VSS    0      dc 0
VDD    VDD    0      dc {vdda}
* Behavioural CMFB on VREF, faster LP for tran (~1ms time const)
BVREF_RAW vrefraw 0   v = vcm + 100*(vcm - v(VOUT))
RREFLP    vrefraw VREF 1k
CREFLP    VREF    0    1u  ic=1.0

* Closed-loop unity-gain (pulse step on VINP)
RFB    VOUT   VINN   1
* Slew step: 0.4 V at TD=20us, edges 1 ns
VVINP  VINP   0      pulse(0.7 1.1 20u 1n 1n 25u 60u)
IIBIAS VSS    IBIAS  dc {ibias_val}
CL     VOUT   VSS    10p
.include ../xdut.spi

.nodeset v(VOUT)         = {vcm}
.nodeset v(VINN)         = {vcm}
.nodeset v(VREF)         = 1.0
.nodeset v(xdut.IBIAS)   = 0.70
.nodeset v(xdut.vbp)     = 1.10
.nodeset v(xdut.vbn_cas) = 0.90
.nodeset v(xdut.vbp_cas) = 0.85
.nodeset v(xdut.vo1)     = 0.95
.nodeset v(xdut.vo2)     = 0.70
.ic v(VREF) = 1.0

.save v(VOUT) v(VINP) v(VINN) v(VREF) v(xdut.vo1) v(xdut.vo2)

.control
set num_threads=8
unset askquit
set filetype=ascii

tran 50n 80u uic

* Slew rate measurements: between 0.85 V and 1.05 V on rising edge after 20us step
meas tran t_sr_up_lo when v(VOUT) = 0.85 rise=1 td=20u
meas tran t_sr_up_hi when v(VOUT) = 1.05 rise=1 td=20u
let sr_up = (1.05 - 0.85) / (t_sr_up_hi - t_sr_up_lo) * 1e-6
print sr_up

meas tran t_sr_dn_hi when v(VOUT) = 1.05 fall=1 td=45u
meas tran t_sr_dn_lo when v(VOUT) = 0.85 fall=1 td=45u
let sr_dn = (1.05 - 0.85) / (t_sr_dn_lo - t_sr_dn_hi) * 1e-6
print sr_dn

meas tran v_settle_high MAX v(VOUT) FROM=40u TO=45u
meas tran v_settle_low  MIN v(VOUT) FROM=65u TO=75u
print v_settle_high v_settle_low

write {cicname}.raw
quit
.endc
.end
